US09126981B2
Synthesis of (S)-(9H-fluoren-9-yl)methyl 3-(4-tert-butoxyphenyl)-1-((2,2-diethoxyethyl)(naphthalen-1-ylmethyl)amino)-1-oxopropan-2-ylcarbamate (Compound III-2)
According to the procedure described in the synthesis method of Compound III-1, 2,2-diethoxy-N-(naphthalen-1-ylmethyl)ethanamine (Compound IX-2) (2.73 g, 10 mmol) was coupled with (S)-2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(4-tert-butoxyphenyl)propanoic acid (6.89 g, 15 mmol) and the obtained residue was purified by silica gel column chromatography (eluent: n-hexane:ethyl acetate=8:2 to 6:4) to obtain the title compound (6.46 g, 90%).

reactant | 2,2-diethoxy-N-(naphthalen-1-ylmethyl)ethanamine | 10 mmol, 2.73 g | C(C)OC(CNCC1=CC=CC2=CC=CC=C12)OCC | C17H23NO2
reactant | (S)-2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(4-tert-butoxyphenyl)propanoic acid | 15 mmol, 6.89 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)OC(C)(C)C | C28H29NO5
product | (S)-(9H-fluoren-9-yl)methyl 3-(4-tert-butoxyphenyl)-1-((2,2-diethoxyethyl)(naphthalen-1-ylmethyl)amino)-1-oxopropan-2-ylcarbamate | 6.46 g, 90% | C(C)(C)(C)OC1=CC=C(C=C1)C[C@@H](C(=O)N(CC1=CC=CC2=CC=CC=C12)CC(OCC)OCC)NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C45H50N2O6
